US06489344B1
6-[(2-{[4-(2-chlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)amino]-pyridine-3-carbonitrile was prepared from 2-chlorobenzoyl chloride and 2-chloro-5-(cyano)pyridine using the general method for [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | 2-chloro-5-(cyano)pyridine | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C20H16Cl2N8O2
product | 6-[(2-{[4-(2-chlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)amino]-pyridine-3-carbonitrile | ClC1=C(C=CC=C1)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=CC=C(C=N1)C#N | C21H17ClN8
